US06500818B1
(a) 4-Bromobutane-1-sulfonyl chloride
4-Bromo-1-butane sulfonic acid sodium salt (1.25 g) was added to thionyl chloride (12.5 mL) with stirring under nitrogen. The reaction was heated under reflux for 3 h, cooled, and concentrated under reduced pressure. The residue was then diluted with diethyl ether, washed with water, dried, filtered and concentrated under reduced pressure to afford 760 mg of a 7:3 mixture of desired product and the 4-chloro analog (instead of the 4-bromo). 1H NMR (300 MHz, CDCl3) δ3.70 (t, 2H), 3.46 (t, 2H), 2.25 (m, 2H), 2.09 (m, 2H).

reactant | 4-Bromo-1-butane sulfonic acid sodium salt | 1.25 g | [Na+].BrCCCCS(=O)(=O)[O-]
reactant | thionyl chloride | 12.5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-Bromobutane-1-sulfonyl chloride | BrCCCCS(=O)(=O)Cl | C4H8BrClO2S
